US07423036B2
d) 1,1-dimethyl-3-[5-methyl-3-(4-trifluoromethyl-phenyl)-[1,2,4]triazol-1-yl]-propylamine
Prepared according to the method described for intermediate product 1d) from tert-butyl {1,1-dimethyl-3-[5-methyl-3-(4-trifluoromethyl-phenyl)-[1,2,4]triazol-1-yl]-propyl}-carbamate. White solid. Yield: 4.72 g (trifluoroacetate); mass spectroscopy [M+H]+=313.

reactant | tert-butyl {1,1-dimethyl-3-[5-methyl-3-(4-trifluoromethyl-phenyl)-[1,2,4]triazol-1-yl]-propyl}-carbamate | CC(CCN1N=C(N=C1C)C1=CC=C(C=C1)C(F)(F)F)(C)NC(OC(C)(C)C)=O | C20H27F3N4O2
reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
product | 1,1-dimethyl-3-[5-methyl-3-(4-trifluoromethyl-phenyl)-[1,2,4]triazol-1-yl]-propylamine | CC(CCN1N=C(N=C1C)C1=CC=C(C=C1)C(F)(F)F)(C)N | C15H19F3N4
